2117-02-15 07:06:00 Physician Resident Progress Note
Chief Complaint: [**2-14**]
   - When put OOB to chair pt developed tachycardia, hypotension, and
   hypoxia thought to be postural, relieved with bedrest.
   - When pt was simply lying flat broke into paroxysmal SVT to 130s-140s
   with hypotension to 70s. Appeared to be AVNRT with retrograde p waves.
   This rhythm was broken back to sinus after carotid massage and
   pressures remained stable from then on. 12 lead was not able to be
   obtained quickly enough.
   24 Hour Events:
 EKG - At [**2117-2-14**] 11:01 AM
 EKG - At [**2117-2-14**] 06:18 PM
 BLOOD CULTURED - At [**2117-2-14**] 07:17 PM
   Allergies:
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2117-2-15**] 02:05 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2117-2-14**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2117-2-14**] 09:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-2-15**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.8
C (98.3
   HR: 99 (90 - 140) bpm
   BP: 125/60(76) {78/44(57) - 151/85(101)} mmHg
   RR: 22 (18 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    415 mL
                                                                    171 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    315 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  3,140 mL
                                                                    437 mL
   Urine:
                                                                  3,140 mL
                                                                    437 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,725 mL
                                                                   -266 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   528 K/uL
   9.6 g/dL
   97 mg/dL
   1.7 mg/dL
   19 mEq/L
   4.3 mEq/L
   28 mg/dL
   108 mEq/L
   139 mEq/L
   27.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2117-2-14**]  02:17 AM
                             [**2117-2-14**]  01:04 PM
                             [**2117-2-15**]  03:34 AM
   WBC
   11.0
   9.4
   Hct
   32.3
   27.7
   Plt
   589
   528
   Cr
   1.8
   1.8
   1.7
   TropT
   0.06
   0.04
   Glucose
   143
   97
   Other labs: PT / PTT / INR:13.4/33.8/1.1, CK / CKMB /
   Troponin-T:41/3/0.04, Differential-Neuts:87.0 %, Lymph:7.8 %, Mono:3.3
   %, Eos:1.7 %, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPOXEMIA
   Assessment and Plan
   Assessment and Plan: [**Age over 90 **]yo male with metastatic prostate cancer admitted
   for klebsiella/enterococcus UTI and pna, who is transferred to [**Hospital Unit Name 10**] for
   hypoxic respiratory failure.
   .
   # Hypoxemic Respiratory Failure:  Currently satting 100% on NRB.
   Likely secondary to infection and volume overload.  Pt was admitted
   with pneumonia, felt to be in the retrocardiac space, then later found
   to have a new infiltrate in the right lobe.  In the setting of
   hypotension and tachycardia he has been receiving ivfs, and his exam
   and CXR is now consistent with volume overload.  Unlikely to be PE
   given he is on HSQ and CXR shows a more likely etiology of pulmonary
   edema.
   - cont. NRB, can try NIPPV
   - IV Lasix 10 mg x1, goal of I&O -500cc or greater as tolerated by BP
   in next 24 hours
   - Nitro gtt if tolerated by BP
   - ECHO is AM as no history of CHF
   - Repeat ABG
   - Broaden pneumonia coverage to HAP with cefepime/levo/vanc
   - Send sputum culture, follow up urine legionella, follow blood
   cultures
   - cont. nebs
   .
   # Hypotension:  Currently pt is not hypotensive.  This was initially
   thought to be due to hypovolemia; however, sepsis is a likely
   contributing to her hypotension at this time.  There is no ECHO here.
   Pt denies any chest pain.  STD on EKG is likely rate-related.  Pt is
   also currently on prednisone for ITP, so there is concern for adrenal
   insufficiency though the patient has been on relatively low dose
   steroids for only a few weeks.
   - Hold on further IVFs at this time
   - Cont. abx as above
   - serial CEs, EKGs
   - ECHO in AM
   - [**Last Name (un) **] stim in AM
   .
   # Hospital-acquired pneumonia:  Pt was admitted with pneumonia, felt to
   be in the retrocardiac space, then later found to have a new infiltrate
   in the right lobe, which would quality as HAP .
   - Broaden pneumonia coverage to HAP with cefepime/levo/vanc
   - Send sputum culture, follow up urine legionella, follow blood
   cultures
   .
   # UTI:  Klebsiella and enterococci in cultures.  At risk due to chronic
   indwelling Foley.
   - will be covered by cefepime/levo/vanc
   .
   # Sinus tachycardia:  Likely due to hypoxia, infections, ?hypovolemia.
   - monitor rate
   .
   # Metastatic prostate cancer:
   - continue outpatient follow-up
   - continue prednisone 5mg daily for pain, dose has been tapered and
   would have been discontinued on Friday [**2-12**]
   .
   # ITP:  Plt count normal.
   - cont. to monitor plts
   .
   # Hyperlipidemia:
   - continue statin
   .
   # Stage IV Chronic Renal Failure: Stable
   - avoid nephrotoxins
   - renally dose medications
   .
   # FEN: NPO until respiratory status stabilizes, replete electrolytes
   prn, I&O goal of -500
   # PPx: heparin SC, bowel regimen
   # CODE: FULL CODE
   # COMM: [**Name (NI) **]; Daughter [**First Name4 (NamePattern1) 1094**] [**Last Name (NamePattern1) 3791**] [**Telephone/Fax (1) 10834**]
   # DISP: pending stabilization of respiratory status
   ICU Care
   Nutrition:
   Comments: npo for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-14**] 02:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Patient seen and examined with housestaff team.  Agree with above note,
   would add/emphasize:
   [**Age over 90 58**] yo man with, metastatic prostate cancer,  chronic indwelling foley,
   admitted on [**2-9**] with weakness, fever, cough, retrocardiac opacity on
   CXR and a U/A with pan sensitive klebsiella.  Has been on vanco/levo.
   Has had multiple triggers for HOTN and tachycardia.  On [**2-12**] he was net
   positive 700ml, [**2-13**] positive 1.3L.  Had increasing oxygen
   requirements.  ABG 7.46/30/53  Feels SOB, but feels like he is getting
   better.   SBP in 110s, got lasix with some improvement.
   Meds, PMHx, SHx, FHx, ROS as above.
   0/3 128/71, HR 115, sat 91% on 4L, 96% on 50% FiO2.
   +JVP
   b/l rales
 up.
   CV: tachy
   Abd: Soft
   Ext: 2+ edema
   WBC 11.
   Na 135
   Bun/Cr   27/1.8 (baseline 2.0)
   Urine with klebsiella, entercocci.  Blood Cx: NGTD
   Random Cortisol level is 24
   CXR: increased b/l vascular congestion/edema.  Fluid in fissurs.
   EKG: ST at 134, RBBB
   A/P
   Septicemia with UTI:  klebsiella/enterococcus
   Pulmonary edema/respiratory distress: likely due to IVF hydration.  BP
   is better so can give lasix
   Small troponin leak, subendocardial MI from demand ischemia.
   PNA:  Vanco/Cefepim/levo for PNA
   Full code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-14**] 06:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-02-16 07:09:00 Physician Resident Progress Note
Chief Complaint: Hypoxemic respiratory failure
   24 Hour Events:
 EKG - At [**2117-2-15**] 07:30 PM
 EKG - At [**2117-2-15**] 08:15 PM
 SPUTUM CULTURE - At [**2117-2-16**] 02:50 AM
   [**2117-2-15**]
   -had another episode of SVT, BP transiently in 70s, resolved without
   intervention, ECG unchanged
   -given additional 10mg lasix, negative 1.1L as of 2300
   -SVT again x2, BPs in 50sm resolved with carotid massage, started
   metoprolol 12.5 Q6, also given 5 IV for SVT again
   History obtained from Patient
   Allergies:
   History obtained from PatientPercodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2117-2-15**] 08:06 AM
   Levofloxacin - [**2117-2-15**] 08:06 AM
   Cefipime - [**2117-2-16**] 12:10 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2117-2-15**] 08:36 PM
   Furosemide (Lasix) - [**2117-2-15**] 09:06 PM
   Heparin Sodium (Prophylaxis) - [**2117-2-16**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Flowsheet Data as of  [**2117-2-16**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 90 (88 - 130) bpm
   BP: 115/59(72) {58/45(48) - 138/78(93)} mmHg
   RR: 19 (17 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 84.4 kg
             Total In:
                                                                  1,040 mL
                                                                    170 mL
   PO:
                                                                    450 mL
             TF:
   IVF:
                                                                    590 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    500 mL
   Urine:
                                                                  2,370 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,330 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : Crackles at bases L>R)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   584 K/uL
   9.6 g/dL
   80 mg/dL
   1.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   33 mg/dL
   105 mEq/L
   140 mEq/L
   28.2 %
   9.5 K/uL
        [image002.jpg]
                             [**2117-2-14**]  02:17 AM
                             [**2117-2-14**]  01:04 PM
                             [**2117-2-15**]  03:34 AM
                             [**2117-2-15**]  05:00 PM
                             [**2117-2-16**]  05:29 AM
   WBC
   11.0
   9.4
   9.5
   Hct
   32.3
   27.7
   28.2
   Plt
   589
   528
   584
   Cr
   1.8
   1.8
   1.7
   1.7
   1.9
   TropT
   0.06
   0.04
   Glucose
   143
   97
   82
   80
   Other labs: PT / PTT / INR:14.1/42.6/1.2, CK / CKMB /
   Troponin-T:41/3/0.04, Differential-Neuts:87.0 %, Lymph:7.8 %, Mono:3.3
   %, Eos:1.7 %, Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: Sputum poor sample from contamination
   ([**2117-2-16**]).
   Microbiology: Blood cx [**2-12**], [**2-13**], [**2-14**] still pending.
   ECG: AVNRT
   Assessment and Plan
 HYPOXEMIA
   Assessment and Plan
   Assessment and Plan: [**Age over 90 **]yo male with metastatic prostate cancer admitted
   for klebsiella/enterococcus UTI and pna, who is transferred to [**Hospital Unit Name 10**] for
   hypoxic respiratory failure.
   .
   # Hypoxemic Respiratory Failure:  Patient still desats with movement,
   with crackles on exam.  Would benefit from further diuresis.  Will
   continue to treat for HAP.  Has had brief hypotensive episode, but
   otherwise stable not requiring pressor support.
   - IV Lasix 10 mg x1, goal of I&O -1L as tolerated by BP
   - ECHO today
   - Repeat ABG
   - D/c levo, Cont cefepime/[**Hospital Unit Name **] for HAP
   - F/u blood cultures
   .
   # Hospital-acquired pneumonia:
   - Treat w/ cefepime/[**Hospital Unit Name **]
   .
   # UTI:  Klebsiella and enterococci in cultures.  At risk due to chronic
   indwelling Foley.
   - Treat w/ cefepime/[**Last Name (LF) **], [**First Name3 (LF) 116**] need 14 day course for complicated UTI,
   can likely switch to po meds at later date
   .
   # Sinus tachycardia:  Last night episode of AVNRT.  Currently sinus
   tachy likely due to hypoxia, infections, malignancy.
   .
   # Metastatic prostate cancer: Outpatient follow-up
   .
   # ITP:  Plt count normal.
   - cont. to monitor plts
   .
   # Hyperlipidemia:
   - continue statin
   .
   # Stage IV Chronic Renal Failure: Stable
   - avoid nephrotoxins
   - renally dose medications
   .
   ICU Care
   Nutrition:
   Comments: npo for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-14**] 02:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **], including the assessment and plan. I
   would emphasize and add the following points: [**Age over 90 **]M met prostate cancer
   c/b enterococcal / klebs UTI admitted to [**Hospital Unit Name 10**] for respiratory distress
   - improved with diuresis. AVNRT yesterday, broke to NSR c carotid
   massage.
   Exam notable for Tm 100.9 BP 105/53 HR 103 RR with sat 99 on 50% FM.
   JVD 7cm. Coarse BS B rales to [**1-10**]. RRR s1s2. Soft +BS, 2+ edema. Labs
   notable for WBC 9K, HCT 27, K+ 4.3, Cr 1.7. CXR with resolving CHF.
   Agree with plan to manage respiratory distress with ongoing diuresis,
   oxygen wean, elevation of HOB. Will check echo and continue abx for
   both UTI and possible nosocomial pneumonia - vanco / cefepime via PIV.
   CRI is at baseline. Episodic hypotension likely from autonomic
   dysregulation, has not responded to IVF. AVNRT - responds to carotid
   massage. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min

2117-02-17 08:03:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2117-2-16**] 11:42 AM
   [**2117-2-16**]:
   -PEG placed.
   -Bleeding around trach.  IP came to evaluate: saw a clot in the
   suprastomal area which was suctioned with no residual active bleeding
   between 2nd/3rd ring during bronch.  Applied lidocain/epi.
   -There was a concern for tracheal innominate fistula.  Had a long
   discussion between IP, heme/onc, radiology, surgery regarding MRA vs
   CTA (given his renal failure).  Ultimately, he needed stat CTA neck.
   Discussed this with patient and his wife to great depths.  He was
   premedicated with sodium bicarb, famotidine, benadryl, and zofran.
   Allergies:
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2117-2-15**] 08:06 AM
   Vancomycin - [**2117-2-16**] 11:00 AM
   Cefipime - [**2117-2-17**] 12:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-2-17**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Flowsheet Data as of  [**2117-2-17**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96
   HR: 66 (66 - 88) bpm
   BP: 107/51(64) {84/46(54) - 122/65(75)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 84.4 kg
   Height: 68 Inch
             Total In:
                                                                  1,183 mL
                                                                    434 mL
   PO:
             TF:
   IVF:
                                                                  1,183 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    360 mL
   Urine:
                                                                  1,200 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -17 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   653 K/uL
   8.7 g/dL
   202 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.3 mEq/L
   39 mg/dL
   104 mEq/L
   136 mEq/L
   26.9 %
   8.6 K/uL
        [image002.jpg]
                             [**2117-2-14**]  02:17 AM
                             [**2117-2-14**]  01:04 PM
                             [**2117-2-15**]  03:34 AM
                             [**2117-2-15**]  05:00 PM
                             [**2117-2-16**]  05:29 AM
                             [**2117-2-16**]  05:02 PM
                             [**2117-2-17**]  06:07 AM
   WBC
   11.0
   9.4
   9.5
   8.6
   Hct
   32.3
   27.7
   28.2
   26.9
   Plt
   589
   528
   584
   653
   Cr
   1.8
   1.8
   1.7
   1.7
   1.9
   1.9
   1.7
   TropT
   0.06
   0.04
   Glucose
   143
   97
   82
   80
   84
   202
   Other labs: PT / PTT / INR:12.9/35.7/1.1, CK / CKMB /
   Troponin-T:41/3/0.04, Differential-Neuts:84.3 %, Lymph:9.0 %, Mono:4.6
   %, Eos:2.0 %, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.8 mg/dL
   Imaging: BL LE U/S [**2117-2-16**]: No DVT slightly limited (prelim)
   CT Chest w/o contrast [**2117-2-16**]:
   New diffuse reticular opacities since [**2117-2-9**] likely represent pulmonary
   edema,
   hypersentitivity pneumonitis, infectious etiology and much less likely
   interstitial lung disease. (prelim)
   Microbiology: Sputum [**2117-2-16**]: Cancelled.
   Assessment and Plan
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
 TACHYCARDIA, OTHER
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 HYPOXEMIA
   Assessment and Plan: [**Age over 90 **]yo male with metastatic prostate cancer admitted
   for klebsiella/enterococcus UTI and pna, who is transferred to [**Hospital Unit Name 10**] for
   hypoxic respiratory failure.
   .
   # Hypoxemic Respiratory Failure:  Combination of likely
   hypersensitivity pneumonitis and shunting from PFO. No improvement to
   very slight improvement. Patient still desats with even minimal
   movement, still with crackles on exam.  CT showing diffuse ground glass
   bl opacities, ddx in order of likelihood hypersensitivity pneumonitis,
   interstitial infectious pneumonia, pulmonary edema (less likely as not
   favoring to dependent areas), and least likely IPF. Pt seems euvolemic
   therefore will hold on diuresis.
   - - ECHO today, will call echo lab as had been ordered since [**2117-2-14**].
   - Repeat ABG today
   - Cont cefepime/[**Month/Day/Year **] for HAP, consider broadening to Zosyn
   - Repeat sputum cx
   - Consider repeat CT chest w/o contrast to get better sense of chronic
   process (possible metastatic prostate CA?)
   - F/u blood cultures
   - Will discuss with family after echo and more information is apparent
   .
   # Hospital-acquired pneumonia:  Infiltrate seems to be worsening.
   - Treat w/ cefepime/[**Month/Day/Year **]
   - Consider broadening to Zosyn
   .
   # UTI:  Klebsiella and enterococci in cultures.  At risk due to chronic
   indwelling Foley.
   - Treat w/ cefepime/[**Last Name (LF) **], [**First Name3 (LF) 116**] need 14 day course for complicated UTI,
   can likely switch to po meds at later date
   .
   # Sinus tachycardia:  Last night episode of AVNRT, however improved
   after initiation of betablocker.  Currently sinus tachy likely due to
   hypoxia, infections, malignancy. And AVNRT also likely triggered by
   hypoxia and infections.
   -Continue metoprolol 12.5mg PO Q6H and consider uptitrating if pt
   develops more AVNRT
   .
   # Metastatic prostate cancer: Outpatient follow-up
   .
   # ITP:  Plt count normal.
   - cont. to monitor plts
   .
   # Hyperlipidemia:
   - continue statin
   .
   # Stage IV Chronic Renal Failure: Stable
   - avoid nephrotoxins
   - renally dose medications
   .
   ICU Care
   Nutrition: Advance diet to full liquids through straw
   Comments:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-14**] 02:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: [**Age over 90 **]M met prostate cancer c/b enterococcal /
   klebs UTI admitted to [**Hospital Unit Name 10**] for respiratory distress - improved with
   diuresis. Several episodes of AVNRT c/b hypotension, broke to NSR c
   carotid massage, started on metoprolol.
   Exam notable for Tm 98.7 BP 115/53 HR 86 RR with sat 99 on 50% FM. JVD
   7cm. Coarse BS B crackles to [**1-10**] B, unchanged. RRR s1s2. Soft +BS, 2+
   edema. Labs notable for WBC 9K, HCT 27, K+ 4.3, Cr 1.9. CXR with
   resolving CHF.
   Agree with plan to manage respiratory distress with oxygen, elevation
   of HOB, supportive care - he had subtle subpleural changes in [**2115**] -
   will repeat HRCT chest today to see if this has progressed. Will check
   echo c bubbles to assess RV function and r/o shunt, and continue abx
   for both UTI and possible nosocomial pneumonia - vanco / cefepime via
   PIV. CRI is at baseline but precludes I+ CT, will check LENIs and start
   heparin without bolus, both for possible PE and to treat in-situ
   thrombosis if he has accelerated IPF. Continue metoprolol for AVNRT,
   which responds to carotid massage. Will meet with family at 1500 today,
   hopefully after review of CT scan. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-14**] 06:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-02-18 07:27:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   -CT chest final read: hypersensitivity pneumonitis vs pulmonary edema
   -started ensure shakes QID
   -Tried to wean O2 unfortunately became more hypoxic with coughing
   spells had to go from 60-80% FiO2
   -Pt was still even as per goal at 0100
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsPercodan (Oral)
   (Oxycodone Hcl/Aspirin)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2117-2-15**] 08:06 AM
   Cefipime - [**2117-2-17**] 12:50 AM
   Vancomycin - [**2117-2-17**] 08:34 AM
   Ampicillin/Sulbactam (Unasyn) - [**2117-2-18**] 04:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Likely occupational exposure to asbestos
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2117-2-18**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.3
   HR: 58 (58 - 85) bpm
   BP: 101/45(58) {89/40(51) - 121/77(83)} mmHg
   RR: 15 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 80 kg (admission): 84.4 kg
   Height: 68 Inch
             Total In:
                                                                  1,076 mL
                                                                    173 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                    896 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,247 mL
                                                                    355 mL
   Urine:
                                                                  1,247 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -171 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : inspiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   643 K/uL
   9.2 g/dL
   162 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   48 mg/dL
   105 mEq/L
   138 mEq/L
   28.1 %
   18.0 K/uL
        [image002.jpg]
                             [**2117-2-14**]  02:17 AM
                             [**2117-2-14**]  01:04 PM
                             [**2117-2-15**]  03:34 AM
                             [**2117-2-15**]  05:00 PM
                             [**2117-2-16**]  05:29 AM
                             [**2117-2-16**]  05:02 PM
                             [**2117-2-17**]  06:07 AM
                             [**2117-2-18**]  05:13 AM
   WBC
   11.0
   9.4
   9.5
   8.6
   18.0
   Hct
   32.3
   27.7
   28.2
   26.9
   28.1
   Plt
   589
   528
   584
   653
   643
   Cr
   1.8
   1.8
   1.7
   1.7
   1.9
   1.9
   1.7
   1.7
   TropT
   0.06
   0.04
   Glucose
   143
   97
   82
   80
   84
   202
   162
   Other labs: Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: WBC 18 from 8.6
   Cr stable
   Hct stable
   Imaging: IMPRESSION: Slightly limited exam (nonvisualization of the
   left popliteal
   vein secondary to patient pain and nonvisualization of the left tibial
   vein),
   but otherwise no son[**Name (NI) 330**] evidence for DVT in the bilateral lower
   extremities.
   Microbiology: GRAM STAIN (Final [**2117-2-16**]):
    >25 PMNs and >10 epithelial cells/100X field.
   Gram stain indicates extensive contamination with upper respiratory
         secretions. Bacterial culture results are invalid.
         PLEASE SUBMIT ANOTHER SPECIMEN.
   Assessment and Plan
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
 TACHYCARDIA, OTHER
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 HYPOXEMIA
   Assessment and Plan: [**Age over 90 **]yo male with metastatic prostate cancer admitted
   for klebsiella/enterococcus UTI and pna, who is transferred to [**Hospital Unit Name 10**] for
   hypoxic respiratory failure.
   .
   # Hypoxemic Respiratory Failure:  Combination of likely
   hypersensitivity pneumonitis and shunting from PFO. No improvement to
   very slight improvement. Patient still desats with even minimal
   movement, still with crackles on exam.  CT showing diffuse ground glass
   bl opacities, ddx in order of likelihood hypersensitivity pneumonitis,
   interstitial infectious pneumonia, pulmonary edema (less likely as not
   favoring to dependent areas), less likely IPF and least likely
   metatstatic prostate lymphangitic spread (prostate rarely metastasizes
   to anything other than bone). Pt seems euvolemic therefore will hold on
   diuresis.
   - DC cefepime and vancomycin as pt has received 8 days of antibiotics
   for CAP (see below for course).
   - Repeat sputum cx
   - F/u blood cultures
   .
   # Possible Community-acquired pneumonia:  Although more likely cause of
   cough and hypoxia is this ground glass opacity (no infiltrate on CT
   chest). Treatment complete s/p 8 days of abx. Pt admitted on [**2117-2-13**] and
   started on Levofloxacin 750mg IV Q48H and discontinued on [**2117-2-15**].
   Patient started on vancomycin 1gm IV Q12H on [**2117-2-13**]. Pt started on
   cefepime 1gm IV Q24H on [**2117-2-14**].
   - DC cefepime/vanc as pt has finished 8 days of abx covering her CAP
   .
   # Complicated UTI:  Klebsiella and enterococci in cultures.  At risk
   due to chronic indwelling Foley.
   - Start Unasyn as this covers both klebsiella and enterococcus for a
   total 14 day course (day 1 was [**2117-2-14**]) for his complicated UTI.
   .
   # Tachycardia:  Last night episode of AVNRT, however improved after
   initiation of betablocker.  Currently NSR. Of note, his hypotensive
   episodes have ceased as his AVNRT has come undercontrol suggesting a
   cardiogenic and rate influenced hypotension, therefore pt was unlikely
   in urosepsis as previously thought.
   -Continue metoprolol 12.5mg PO Q6H and consider uptitrating if pt
   develops more AVNRT
   .
   # Metastatic prostate cancer: Outpatient follow-up
   .
   # ITP:  Plt count normal.
   - cont. to monitor plts
   .
   # Hyperlipidemia:
   - continue statin
   .
   # Stage IV Chronic Renal Failure: Stable
   - avoid nephrotoxins
   - renally dose medications
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-14**] 06:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2117-02-19 08:01:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   - No new culture data.
   - Steroids decreased.
   - Patient received 10mg IV lasix twice
   Enjoyed chocolate shakes
   Switched to nasal cannula overnight
   Worked with PT this am. They did not get him standing [**2-9**] BP 80.
   Recommend OOB to chair with nursing over weekend.
   History obtained from Patient
   Allergies:
   History obtained from PatientPercodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2117-2-17**] 12:50 AM
   Vancomycin - [**2117-2-17**] 08:34 AM
   Ampicillin/Sulbactam (Unasyn) - [**2117-2-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2117-2-18**] 09:34 PM
   Heparin Sodium (Prophylaxis) - [**2117-2-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2117-2-19**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.3
C (95.6
   HR: 64 (58 - 76) bpm
   BP: 105/51(63) {77/39(47) - 110/68(74)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 84.4 kg
   Height: 68 Inch
             Total In:
                                                                  1,081 mL
                                                                    299 mL
   PO:
                                                                    540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    541 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,242 mL
                                                                    655 mL
   Urine:
                                                                  1,242 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -161 mL
                                                                   -356 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : inspiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   689 K/uL
   9.4 g/dL
   159 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.0 mEq/L
   58 mg/dL
   105 mEq/L
   140 mEq/L
   28.3 %
   18.4 K/uL
        [image002.jpg]
                             [**2117-2-14**]  02:17 AM
                             [**2117-2-14**]  01:04 PM
                             [**2117-2-15**]  03:34 AM
                             [**2117-2-15**]  05:00 PM
                             [**2117-2-16**]  05:29 AM
                             [**2117-2-16**]  05:02 PM
                             [**2117-2-17**]  06:07 AM
                             [**2117-2-18**]  05:13 AM
                             [**2117-2-18**]  05:40 PM
                             [**2117-2-19**]  05:47 AM
   WBC
   11.0
   9.4
   9.5
   8.6
   18.0
   18.4
   Hct
   32.3
   27.7
   28.2
   26.9
   28.1
   28.3
   Plt
   589
   528
   584
   653
   643
   689
   Cr
   1.8
   1.8
   1.7
   1.7
   1.9
   1.9
   1.7
   1.7
   1.7
   1.7
   TropT
   0.06
   0.04
   Glucose
   143
   97
   82
   80
   84
   [**Telephone/Fax (3) 10923**]59
   Other labs: Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Microbiology: repeat sputum not sent
   Assessment and Plan
   Assessment and Plan: [**Age over 90 **]yo male with metastatic prostate cancer admitted
   for klebsiella/enterococcus UTI and pna, who is transferred to [**Hospital Unit Name 10**] for
   hypoxic respiratory failure.
   # Hypoxia
 Improvement with steroids would suggest non-specific
   interstitial pneumonitis (NSIP).
   - hold on diuresis as orthostatic
   - change steroids to 60mg prednisone daily for at least 2 wks
   - bactrim ppx
   - PPI if develops GERD symptoms
   - fingersticks and sliding scale
   # Hypotension
   Continues to occasionally have BPs 80s. Maybe be hypovolemic.
   - Decrease metoprolol to Q8h
   - hold on diuresis
   # Complicated UTI:  Klebsiella and enterococci in cultures.  At risk
   due to chronic indwelling Foley.
   - change unasyn to augmentin
   - Continue abx for 14 days. Last day [**2-28**].
   # Leukocytosis
   Likely [**2-9**] steroids.
   -monitor
   # Tachycardia:
   Has not had any episodes of AVNRT.
   - continue metoprolol 12.5mg PO Q8H
   # Metastatic prostate cancer: Outpatient follow-up
   # ITP:  Plt count normal.
   - cont. to monitor plts
   # Hyperlipidemia:
   - continue statin
   # Stage IV Chronic Renal Failure: Stable
   - avoid nephrotoxins
   - renally dose medications
   # CHF with preserved systolic function, EF 55%
   - monitor Is/Os and weights
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-14**] 06:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2117-02-20 08:30:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:  Weakness, fever
   Reason for MICU Admission:  Hypoxemic respiratory failure
   24 Hour Events:
 CALLED OUT
   [**2-19**]
   - Became hypotensive and desated with PT, so held diuresis
   - Changed iv steroids to 60mg po prednisone for NSIP
   - Added bactrim for ppx
   - Unasyn switched to augmentin
   History obtained from Patient
   Allergies:
   History obtained from PatientPercodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2117-2-17**] 08:34 AM
   Ampicillin/Sulbactam (Unasyn) - [**2117-2-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-2-20**] 01:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-2-20**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.3
   HR: 66 (57 - 84) bpm
   BP: 113/58(72) {91/41(52) - 132/67(81)} mmHg
   RR: 11 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 84.4 kg
   Height: 68 Inch
                  Total In:
                                                                  1,106 mL
                                                                    150 mL
   PO:
                                                                    927 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    395 mL
   Urine:
                                                                  1,225 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -119 mL
                                                                   -245 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   716 K/uL
   10.2 g/dL
   168 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.3 mEq/L
   66 mg/dL
   108 mEq/L
   141 mEq/L
   31.7 %
   20.1 K/uL
        [image002.jpg]
                             [**2117-2-14**]  01:04 PM
                             [**2117-2-15**]  03:34 AM
                             [**2117-2-15**]  05:00 PM
                             [**2117-2-16**]  05:29 AM
                             [**2117-2-16**]  05:02 PM
                             [**2117-2-17**]  06:07 AM
                             [**2117-2-18**]  05:13 AM
                             [**2117-2-18**]  05:40 PM
                             [**2117-2-19**]  05:47 AM
                             [**2117-2-20**]  04:41 AM
   WBC
   9.4
   9.5
   8.6
   18.0
   18.4
   20.1
   Hct
   27.7
   28.2
   26.9
   28.1
   28.3
   31.7
   Plt
   528
   584
   653
   643
   689
   716
   Cr
   1.8
   1.7
   1.7
   1.9
   1.9
   1.7
   1.7
   1.7
   1.7
   1.6
   TropT
   0.04
   Glucose
   97
   82
   80
   84
   [**Telephone/Fax (3) 10923**]59
   168
   Other labs: PT / PTT / INR:12.9/35.7/1.1, CK / CKMB /
   Troponin-T:41/3/0.04, Differential-Neuts:84.3 %, Lymph:9.0 %, Mono:4.6
   %, Eos:2.0 %, Ca++:8.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
 TACHYCARDIA, OTHER
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-14**] 06:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Assessment and Plan
   Assessment and Plan: [**Age over 90 **]yo male with metastatic prostate cancer admitted
   for klebsiella/enterococcus UTI and pna, who is transferred to [**Hospital Unit Name 10**] for
   hypoxic respiratory failure.
   # Hypoxia
 Improvement with steroids would suggest non-specific
   interstitial pneumonitis (NSIP).
   - hold on diuresis as orthostatic
   - change steroids to 60mg prednisone daily for at least 2 wks
   - bactrim ppx
   - PPI if develops GERD symptoms
   - fingersticks and sliding scale
   # Hypotension
   Continues to occasionally have BPs 80s. Maybe be hypovolemic.
   - Decrease metoprolol to Q8h
   - hold on diuresis
   # Complicated UTI:  Klebsiella and enterococci in cultures.  At risk
   due to chronic indwelling Foley.
   - change unasyn to augmentin
   - Continue abx for 14 days. Last day [**2-28**].
   # Leukocytosis
   Likely [**2-9**] steroids.
   -monitor
   # Tachycardia:
   Has not had any episodes of AVNRT.
   - continue metoprolol 12.5mg PO Q8H
   # Metastatic prostate cancer: Outpatient follow-up
   # ITP:  Plt count normal.
   - cont. to monitor plts
   # Hyperlipidemia:
   - continue statin
   # Stage IV Chronic Renal Failure: Stable
   - avoid nephrotoxins
   - renally dose medications
   # CHF with preserved systolic function, EF 55%
   - monitor Is/Os and weights
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-14**] 06:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 94M met prostate cancer c/b enterococcal /
   klebs UTI admitted to [**Hospital Unit Name 10**] for respiratory distress - CT c/w
   hypersensitivity pneumonitis, PFO on echo c R to L shunt. Improving
   with steroids but still desats with minimal exertion.
   Exam notable for Tm 97.9 BP 100/50 HR 67 RR 18 with sat 100 on 0.8
   HFFM. JVD flat. Coarse BS B crackles to [**1-10**] B, unchanged. RRR s1s2.
   Soft +BS, 2+ edema. Labs notable for WBC 18K, HCT 28, K+ 4.0, Cr 1.7.
   Agree with plan to manage respiratory distress with IV steroids
   (prednisone 60mg PO QD) for probable hypersensitivity pneumonitis
   / possible cellular NSIP - will need slow wean and bactrim prophylaxis
   while on treatment; PFO is likely contributing to hypoxemia with
   exertion in the setting of mildly elevated right sided pressures and
   hypoxic vasoconstriction. Wean oxygen and get OOB to chair today. Will
   monitor FSG and cover with RISS while on steroids. Will continue abx
   for both UTI and possible nosocomial pneumonia - augmentin PO until
   [**2-28**]. CRI is at baseline, low dose lasix PRN for goal even
   TBB. Continue metoprolol for AVNRT (change to q8h), which responds to
   carotid massage. Remainder of plan as outlined above.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 242**], MD
   on:[**2117-2-19**] 05:13 PM ------

2117-02-20 08:35:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Called out to the floor, but remained in the ICU b/c patient
s family
   was uncomfortable with the transfer
   Changed to PO steroids
   Unasyn changed to Augmentin
   History obtained from Patient
   Allergies:
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2117-2-17**] 08:34 AM
   Ampicillin/Sulbactam (Unasyn) - [**2117-2-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-2-20**] 01:08 AM
   Other medications:
   ISS
   ASA 325 mg daily
   Simvastatin 40 mg daily
   Colace
 held
   Heparin 5000 TID
   Prednisone 60 daily
   Metoprolol 12.5 mg Q8H
   Bactrim DS 1 tab daily
   Augmentin PO
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-2-20**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.3
   HR: 66 (57 - 84) bpm
   BP: 113/58(72) {91/41(52) - 132/67(81)} mmHg
   RR: 11 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 84.4 kg
   Height: 68 Inch
                  Total In:
                                                                  1,106 mL
                                                                    150 mL
   PO:
                                                                    927 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    395 mL
   Urine:
                                                                  1,225 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -119 mL
                                                                   -245 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Gen: awake, sitting up in chair
   Chest: rales at B bases
   CV: RRR, JVP flat
   Abd: soft, NT/ND
   Extr: warm, no edema
   Labs / Radiology
   10.2 g/dL
   716 K/uL
   168 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.3 mEq/L
   66 mg/dL
   108 mEq/L
   141 mEq/L
   31.7 %
   20.1 K/uL
        [image002.jpg]
                             [**2117-2-14**]  01:04 PM
                             [**2117-2-15**]  03:34 AM
                             [**2117-2-15**]  05:00 PM
                             [**2117-2-16**]  05:29 AM
                             [**2117-2-16**]  05:02 PM
                             [**2117-2-17**]  06:07 AM
                             [**2117-2-18**]  05:13 AM
                             [**2117-2-18**]  05:40 PM
                             [**2117-2-19**]  05:47 AM
                             [**2117-2-20**]  04:41 AM
   WBC
   9.4
   9.5
   8.6
   18.0
   18.4
   20.1
   Hct
   27.7
   28.2
   26.9
   28.1
   28.3
   31.7
   Plt
   528
   584
   653
   643
   689
   716
   Cr
   1.8
   1.7
   1.7
   1.9
   1.9
   1.7
   1.7
   1.7
   1.7
   1.6
   TropT
   0.04
   Glucose
   97
   82
   80
   84
   [**Telephone/Fax (3) 10923**]59
   168
   Other labs: PT / PTT / INR:12.9/35.7/1.1, CK / CKMB /
   Troponin-T:41/3/0.04, Differential-Neuts:84.3 %, Lymph:9.0 %, Mono:4.6
   %, Eos:2.0 %, Ca++:8.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.7 mg/dL
   Micro: no new data
   Assessment and Plan
   [**Age over 90 **]yo male with metastatic prostate cancer admitted for
   klebsiella/enterococcus UTI and ? PNA, who is transferred to [**Hospital Unit Name 10**] for
   hypoxic respiratory failure, found to have HP vs. NSIP.
   # Hypoxemic resp distress
 Chest CT with diffuse opacities c/w NSIP
   vs. HP.  No clear precipitant for HP. Improved with steroids and went
   from HFM to NC. Still desats with movement, likely [**2-9**] dynamic shunt (+
   PFO on echo)
   - hold on diuresis as orthostatic
   - changed steroids to 60mg prednisone daily, will likely require
   several weeks, will taper depending on clinical response
   - Bactrim ppx
   - PPI if develops GERD symptoms
   - FSG, ISS
   # Hypotension: orthostatic with PT yesterday.  BBL decreased to Q8 from
   Q6.
   - Continue TBB goal of even
   - Continue metoprolol to Q8h
   - Recheck orthostatics today
   # Complicated UTI:  Klebsiella and enterococci in cultures.  At risk
   due to chronic indwelling Foley.
   - changed unasyn to augmentin yesterday, plan on 14 day course. Last
   day [**2-28**].
   # Leukocytosis: ?[**2-9**] steroids vs. new infection.  Now with diarrhea, on
   broad-spectrum abx.
   - check c. diff
   # Tachycardia:  had episodes of AVNRT, none in recent few days.
   - continue metoprolol 12.5mg PO Q8H
   # Metastatic prostate cancer: Outpatient follow-up
   # Hyperlipidemia: on statin, ASA.
   # Stage IV Chronic Renal Failure: Stable
   - avoid nephrotoxins
   - renally dose medications
   ICU Care
   Nutrition: POs
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-14**] 06:05 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer: start H2 blocker
   Communication:  with patient and family
   Code status: Full code
   Disposition : stable for floor
   Total time spent:  30 min CCT